US07608633B2
D. tert-Butyl-1-[3-(4-octylphenoxy)-2-oxopropyl]pyrrole-3-carboxylate
0.817 g (8.00 mmol) acetic anhydride is mixed with 10 ml absolute DMSO, stirred at room temperature for 10 min and added drop-wise to a solution of 0.086 g (0.200 mmol) tert-butyl-1-[2-hydroxy-3-(4-octylphenoxy)propyl]pyrrole-3-carboxylate in 10 ml absolute DMSO. Having stirred for 19 hours, the solution is poured into a mixture of 5% sodium hydrogen carbonate solution and saturated NaCl solution (1:1, v/v) and hydrolyzed for 10 min. Four extractions using diethyl ether, combination of the organic phases, concentration to half the volume on the rotary evaporator, three wash steps with saturated NaCl solution, drying on sodium sulfate, filtration and reconcentration on the rotary evaporator leave as a crude product a brown oil which is purified on silica gel by means of flash column chromatography (flow agent: petroleum ether/ethyl acetate 90:10) and yields the product as a yellowish oil.

reactant | acetic anhydride | 8.00 mmol, 0.817 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | tert-butyl-1-[2-hydroxy-3-(4-octylphenoxy)propyl]pyrrole-3-carboxylate | 0.200 mmol, 0.086 g | C(C)(C)(C)OC(=O)C1=CN(C=C1)CC(COC1=CC=C(C=C1)CCCCCCCC)O | C26H39NO4
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | NaCl | [Na+].[Cl-]
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | tert-Butyl-1-[3-(4-octylphenoxy)-2-oxopropyl]pyrrole-3-carboxylate | C(C)(C)(C)OC(=O)C1=CN(C=C1)CC(COC1=CC=C(C=C1)CCCCCCCC)=O | C26H37NO4
